US04268509
A solution of N-(3-aminopropyl)acetamide (146 g) in dioxane (710 ml) was added to a solution of 97% sodium hydroxide (52 g) in water (620 ml) and then carbon disulfide (96 g) was added dropwise thereto over 35 minutes at -1° to 3° C. The mixture was stirred for 1 hour at 0° to 2° C. To the mixture containing sodium N-(3-acetamidopropyl)dithiocarbamate was added dropwise methyl iodide (179 g) over 35 minutes at 0° to 5° C. and then the resulting mixture was stirred for 3 hours at the same temperature. Dioxane was distilled off in vacuo from the reaction mixture and the residue was extracted with ethyl acetate (300 ml, 200 ml×4). The extracts were dried over magnesium sulfate and concentrated in vacuo to give oil of methyl N-(3-acetamidopropyl)dithiocarbamate (193.18 g).

reactant | N-(3-aminopropyl)acetamide | 146 g | NCCCNC(C)=O | C5H12N2O
reactant | sodium hydroxide | 52 g | [OH-].[Na+]
reactant | sodium N-(3-acetamidopropyl)dithiocarbamate | C(C)(=O)NCCCNC([S-])=S.[Na+]
reactant | methyl iodide | 179 g | CI | CH3I
solvent | dioxane | 710 ml | O1CCOCC1 | C4H8O2
solvent | water | 620 ml | O | H2O
solvent | carbon disulfide | 96 g | C(=S)=S | CS2
product | methyl N-(3-acetamidopropyl)dithiocarbamate | 193.18 g | C(C)(=O)NCCCNC(SC)=S | C7H14N2OS2
